US04499094
Operations are carried out as for Example 7, starting with 1.42 g of 1-(2-chlorophenyl) isoquinoline 3-carboxylic acid, 0.58 g of triethylamine, 0.62 g of ethyl chloroformate and 0.55 g of piperidine in 50 ml of chloroform. 1.2 g of 1-[[1-(2-chlorophenyl) 3-isoquinolyl]carbonyl]piperidine, melting at 161° C. is obtained.

reactant | 1-(2-chlorophenyl) isoquinoline 3-carboxylic acid | 1.42 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | triethylamine | 0.58 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.62 g | ClC(=O)OCC | C3H5ClO2
reactant | piperidine | 0.55 g | N1CCCCC1 | C5H11N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[[1-(2-chlorophenyl) 3-isoquinolyl]carbonyl]piperidine | 1.2 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)N1CCCCC1 | C21H19ClN2O
